US07381736B2
[(2-Bromo-4-methyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester:
A solution of (bromo-difluoro-methyl)-phosphonic acid diethyl ester (25.00 g, 93.6 mmol) in N,N-dimethylacetamide (50 mL) was added drop wise into a suspension of activated zinc (6.12 g, 93.6 mmol) under Argon. The reaction was initiated by heating and kept under 50° C. After the mixture was stirred for 3 h, copper (I) bromide (13.43 g, 93.6 mmol) was added and stirred for 1 h. A solution of 2-bromo-1-iodo-4-methyl-benzene (11.88 g, 40.0 mmol) in N,N-dimethylacetamide (25 mL) was added slowly to the reaction mixture. The resulting suspension was then stirred at room temp for 18 h. Water (100 mL) was added to the reaction mixture and the solution filtered through celite. The filtrate was diluted with EtOAc (250 mL) and organic layer was washed with H2O (50 mL), NaHCO3 (5%, 50 mL) and H2O (50 mL). The solvent was removed and the residue was purified by column chromatography on silica gel, eluting with hexanes/EtOAc (4:1) to provide a colorless oil (11.75 g, 82%): 1H NMR (300 MHz, CDCl3) δ 7.51 (d, 1H), 7.49 (s, 1H), 7.19 (d, 1H), 4.26 (m, 4H), 2.36 (s, 3H), 1.48 (s, 9H), 137 (m, 6 H).

reactant | (bromo-difluoro-methyl)-phosphonic acid diethyl ester | 93.6 mmol, 25.00 g | C(C)OP(OCC)(=O)C(F)(F)Br | C5H10BrF2O3P
reactant | 2-bromo-1-iodo-4-methyl-benzene | 40.0 mmol, 11.88 g | BrC1=C(C=CC(=C1)C)I | C7H6BrI
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 93.6 mmol, 6.12 g | [Zn] | Zn
catalyst | copper (I) bromide | 93.6 mmol, 13.43 g | [Cu]Br
product | [(2-Bromo-4-methyl-phenyl)-difluoro-methyl]-phosphonic acid diethyl ester | 11.75 g, 82% | C(C)OP(OCC)(=O)C(F)(F)C1=C(C=C(C=C1)C)Br | C12H16BrF2O3P
